US07202093B2
Methyl 6-aminohexanoate hydrochloride
The methyl 6-aminohexanoate was dissolved in 40 mL of dioxane, followed by addition of 7.1 mL of 4N-hydrochloride solution of dioxane. After the mixture was stirred at room temperature for 30 minutes, the solvent was distilled off, followed by addition of ether to the residue. The precipitated crystals were isolated by filtration and dried under reduced pressure to yield 3.3 g of the target compound.

reactant | methyl 6-aminohexanoate | NCCCCCC(=O)OC | C7H15NO2
reactant | hydrochloride | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | Methyl 6-aminohexanoate hydrochloride | 3.3 g | Cl.NCCCCCC(=O)OC | InChI=1S/C7H15NO2.ClH/c1-10-7(9)5-3-2-4-6-8;/h2-6,8H2,1H3;1H
